US04232163
Preparation of 2-amino-4-[N-4-chlorophenyl-N-isopropyl (carbamoylethylidene)] thiazole
A solution containing 43.3 g (0.13 mole) of N-isopropyl-4'-chloro-4-bromo-2-methylacetoacetanilide, 10.2 g (0.14 mole) of thiourea and 300 ml of ethanol was refluxed for two hours. A portion of the ethanol was evaporated and water was added. The reaction solution was made basic with ammonium hydroxide. After drying, the white solid weighed 33 g (78%), M.P. 145°-47°. N.M.R. (dimethyl-d6 sulfoxide, CDCl3) ∂0.9-1.3 (CH3, 9 protons), 3.1-3.4 (CH), 4.6-5.1 (CH, isopropyl), 5.9 (hetero-aromatic), 6.5 (NH2), 7.0-7.5 (aromatic).

reactant | N-isopropyl-4'-chloro-4-bromo-2-methylacetoacetanilide | 0.13 mole, 43.3 g | C(C)(C)N(C1=CC=C(C=C1)Cl)C(C(C(=O)CBr)C)=O | C14H17BrClNO2
reactant | thiourea | 0.14 mole, 10.2 g | NC(=S)N | CH4N2S
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | 2-amino-4-[N-4-chlorophenyl-N-isopropyl (carbamoylethylidene)] thiazole | NC=1SCC(N1)=CCC(N(C(C)C)C1=CC=C(C=C1)Cl)=O | C15H18ClN3OS
